US06242449B1
Ethyl 4-[3-(4-amino-3-hydroxybenzoyl)indol-1-yl]butanoate (30 g) was suspended in acetone (390 ml), potassium carbonate (23.8 g) and chlorobromopropane (24 ml) were added to the suspension. The mixture was stirred at room temperature for four hours. The reaction mixture was cooled and filtrated. The filtrate was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 22.8 g of ethyl 4-{3-[4-amino-3-(3-chloropropoxy)benzoyl]indol-1-yl}butanoate as colorless prisms.

reactant | Ethyl 4-[3-(4-amino-3-hydroxybenzoyl)indol-1-yl]butanoate | 30 g | NC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)O | C21H22N2O4
reactant | potassium carbonate | 23.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | chlorobromopropane | 24 ml | ClC(CC)Br | C3H6BrCl
solvent | acetone | 390 ml | CC(=O)C | C3H6O
product | ethyl 4-{3-[4-amino-3-(3-chloropropoxy)benzoyl]indol-1-yl}butanoate | 22.8 g | NC1=C(C=C(C(=O)C2=CN(C3=CC=CC=C23)CCCC(=O)OCC)C=C1)OCCCCl | C24H27ClN2O4
